US09447091B2
1-Fluoro-4-iodo-2-nitrobenzene
To a solution of 1-fluoro-2-nitrobenzene (5 g, 35.43 mmol) in triflic acid (15.6 ml, 177.15 mmol, 5 eq.) at 0° C. was added N-iodosuccinimide (9.57 g, 42.5 mmol, 1.2 eq.) portionwise and the mixture was stirred at RT for 1 h. The mixture was quenched by the addition of water and extracted with diethylether (3×150 ml). The combined organic layer was washed with water, aqueous sodium thiosulfate, brine and dried over sodium sulphate. The solvent was distilled off and the crude residue was purified by column chromatography (60-120 silica gel, 5% ethyl acetate in hexane) to afford the compound in 66% yield (6.2 g). 1H NMR (300 MHz, DMSO-d6): δ 8.42 (dd, 1H), 8.18-8.13 (m, 1H), 7.46-7.39 (m, 1H).

reactant | 1-fluoro-2-nitrobenzene | 35.43 mmol, 5 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | triflic acid | 177.15 mmol, 15.6 ml, 5 eq. | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | N-iodosuccinimide | 42.5 mmol, 9.57 g, 1.2 eq. | IN1C(CCC1=O)=O | C4H4INO2
product | 1-Fluoro-4-iodo-2-nitrobenzene | 66% yield | FC1=C(C=C(C=C1)I)[N+](=O)[O-] | C6H3FINO2
